US04372956
(b) N-(2,2-dimethoxyethyl)-o-tolylsulfonylaminoacetophenone imine
33.8 g of o-tolylsulfonylaminoacetophenone, 13.7 g of aminoacetaldehyde dimethylacetal and 0.4 g of toluenesulfonic acid in 400 ml of toluene are boiled for 4 hours in a water separator and concentrated to dryness in vacuo.

reactant | o-tolylsulfonylaminoacetophenone | 33.8 g | C1(=C(C=CC=C1)S(=O)(=O)NC1=C(C=CC=C1)C(C)=O)C | C15H15NO3S
reactant | aminoacetaldehyde dimethylacetal | 13.7 g | COC(CN)OC | C4H11NO2
reactant | toluenesulfonic acid | 0.4 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,2-dimethoxyethyl)-o-tolylsulfonylaminoacetophenone imine | COC(CN=C(C)C1=C(C=CC=C1)NS(=O)(=O)C1=C(C=CC=C1)C)OC | C19H24N2O4S
